US07618978B2
2-((2S)-2-Dibenzylamino-1-hydroxy-3-phenylpropyl)-6-ethylpiperidine-1-carboxylic acid tert-butyl ester
Add N,N,N′,N′-tetrametlhylethylenediamine (1.4 mL, 9.11 mmol), then sec-butyllithium (1.4 M in cyclohexane, 7.2 mL, 10.1 mmol) to 2-ethylpiperidine-1-carboxylic acid tert-butyl ester in diethyl ether (18 mL) at −78° C. under a nitrogen atmosphere. Warm to −35° C. and stir for 1 h. Cool to −78° C. and add (2S)-2-(dibenzylamino)-3-phenylpropanal (3.0 g, 9.11 mmol) in diethyl ether (4 mL) and stir for 30 min. Quench at −78° C. with water, warm to room temperature and extract with diethyl ether. Combine the organic layers, dry (magnesium sulfate) and concentrate. Separate the two major diastereomers of 2-((2S)-2-dibenzylaniino-1-hydroxy-3-phenylpropyl)-6-ethylpiperidine-1-carboxylic acid tert-butyl ester using normal-phase preparative HPLC (Kromasil Si 60, 10 μm, 80×180 mm; 98:2 Hexane:Acetone; 130 mL/min).

reactant | sec-butyllithium | 10.1 mmol, 1.4 M, 7.2 mL | C(C)(CC)[Li]
reactant | 2-ethylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CC | C12H23NO2
reactant | (2S)-2-(dibenzylamino)-3-phenylpropanal | 9.11 mmol, 3.0 g | C(C1=CC=CC=C1)N([C@H](C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
solvent | diethyl ether | 18 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 2-((2S)-2-Dibenzylamino-1-hydroxy-3-phenylpropyl)-6-ethylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1CC)C([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C35H46N2O3
